US06437146B1
To a solution of (±)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenylamine (110 mg, 0.27 mmol) in methylene chloride (3 ml) was added benzylisocyanate (0.17 ml, 1.36 mmol) at 5° C., and the mixture was stirred at room temperature for 30 min. The reaction mixture was diluted with EtOAc, washed with 1N hydrochloric acid, water, saturated sodium hydrogencarbonate solution, water and brine, dried over magnesium sulfate, and evaporated in vacuo. The resulting solid was collected and washed with EtOAc-hexane to give (±)-1-benzyl-3-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl}urea (100.7 mg, 69%).

reactant | (±)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenylamine | 0.27 mmol, 110 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C=CC1)N | C28H26N2O
reactant | benzylisocyanate | 1.36 mmol, 0.17 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-1-benzyl-3-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl}urea | 100.7 mg, 69% | C(C1=CC=CC=C1)NC(=O)NC1=CC(=CC=C1)CC1C(=CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H33N3O2
